US07566735B2
1-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-pyrrolidinone
The title compound was prepared from 1-[(4-iodophenyl)methyl]-2-pyrrolidinone and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 19.

reactant | 1-[(4-iodophenyl)methyl]-2-pyrrolidinone | IC1=CC=C(C=C1)CN1C(CCC1)=O | C11H12INO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-pyrrolidinone | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CN1C(CCC1)=O)(F)F | C19H20F3N3O
